* /home/ashutoshrao/esim-workspace/sequencedetector/sequencedetector.cir

.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
* u3  net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ ashutosh_seqdet
* u7  net-_u3-pad4_ out dac_bridge_1
* u6  net-_sc1-pad1_ net-_u4-pad_ net-_u5-pad_ net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ adc_bridge_3
* s c m o d e
v2  in gnd pulse(0 1.8 0.1m 0.1m 0.1m 1 2)
v3  net-_u4-pad~_ gnd pulse(0 5 0.1m 0.1m 0.1m 1 2)
v4  net-_u5-pad~_ gnd pulse(0 5 0.1m 0.1m 0.1m 1 100)
v1 net-_sc1-pad3_ gnd  dc 1.8
* u8  out plot_v1
* u1  in plot_v1
* u5  net-_u5-pad~_ plot_v1
* u2  net-_sc1-pad1_ plot_v1
* u4  net-_u4-pad~_ plot_v1
xsc1 net-_sc1-pad1_ in net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 
xsc2 net-_sc1-pad1_ in gnd gnd sky130_fd_pr__nfet_01v8 
a1 [net-_u3-pad1_ ] [net-_u3-pad2_ ] [net-_u3-pad3_ ] [net-_u3-pad4_ ] u3
a2 [net-_u3-pad4_ ] [out ] u7
a3 [net-_sc1-pad1_ net-_u4-pad_ net-_u5-pad_ ] [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ ] u6
* Schematic Name:                             ashutosh_seqdet, NgSpice Name: ashutosh_seqdet
.model u3 ashutosh_seqdet(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u6 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0.1e-00 50e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
plot v(in)
plot v(net-_u5-pad~_)
plot v(net-_sc1-pad1_)
plot v(net-_u4-pad~_)
.endc
.end
